US09055749B2
Step 5. Synthesis of N-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl)propanamide
1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanamine (0.1 g), pyridine (0.15 g) and propionic anhydride (0.029 g) in THF (5 ml) were stirred at room temperature for 1 hour. After the solvent was evaporated under reduced pressure, the residue was purified with column chromatography to get the targeted product (0.06 g).

reactant | 1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanamine | 0.1 g | FC(C1=NC(=CC(=C1)C1(CN=C(C1)C1=CC(=C(C=C1)CN)Br)C(F)(F)F)C(F)(F)F)(F)F | C19H13BrF9N3
reactant | pyridine | 0.15 g | N1=CC=CC=C1 | C5H5N
reactant | propionic anhydride | 0.029 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl)propanamide | 0.06 g | FC(C1=NC(=CC(=C1)C1(CN=C(C1)C1=CC(=C(CNC(CC)=O)C=C1)Br)C(F)(F)F)C(F)(F)F)(F)F | C22H17BrF9N3O
